US07385085B2
A solution of 1-(1-azido-4-methylene-cyclohexyl)-3-tert-butyl-benzene (820 mg, 3.04 mmol) in diethyl ether (10 mL) was added to a heterogeneous mixture of lithium aluminum hydride (510 mg, 13.4 mmol) in diethyl ether (10 mL) and was placed into a preheated oil bath at 40° C. After heating at reflux for 24 h, the solution was cooled to ambient temperature, and celite and sodium sulfate decahydrate was added. After stirring for 1 h, the heterogeneous mixture was filtered through celite to yield 1-(3-tert-butyl-phenyl)-4-methylene-cyclohexylamine.

reactant | 1-(1-azido-4-methylene-cyclohexyl)-3-tert-butyl-benzene | 3.04 mmol, 820 mg | N(=[N+]=[N-])C1(CCC(CC1)=C)C1=CC(=CC=C1)C(C)(C)C | C17H23N3
reactant | lithium aluminum hydride | 13.4 mmol, 510 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-(3-tert-butyl-phenyl)-4-methylene-cyclohexylamine | C(C)(C)(C)C=1C=C(C=CC1)C1(CCC(CC1)=C)N | C17H25N
